US07402698B2
A solution of diisopropylamine (1.80 mL, 12.9 mmol) in dry tetrahydrofuran (6 mL) under nitrogen was cooled to −78° C. and treated dropwise with a solution of n-butyllithium (2.4 M in hexanes, 5.4 mL, 12.9 mmol). The resulting solution was warmed to 0° C. and stirred for 15 min. The solution was re-cooled to −78° C. and treated, via cannula, with a solution of 3-chlorophenylacetic acid (1.0 g, 5.9 mmol) in tetrahydrofuran (6 mL). The reaction was then allowed to warm to 25° C. where it was stirred for 45 minutes and was then re-cooled to −78° C. Cyclopentyl bromide (0.76 mL, 7.1 mmol) was then added via syringe, and the resulting mixture was stirred at −78° C. for 1 hour. The reaction mixture was allowed to warm to room temperature and then stirred overnight. The reaction was then quenched by the addition of a saturated aqueous solution of ammonium chloride, and the tetrahydrofuran was removed in vacuo. The resulting residue was dissolved in a 2N aqueous solution of sodium hydroxide (30 mL) and washed with ethyl acetate (1×15 mL). The aqueous layer was then acidified to pH=1 with the addition of a 2 N aqueous solution of hydrochloric acid. The product was extracted with ethyl acetate (3×15 mL), and the combined organic extracts were dried over magnesium sulfate, concentrated in vacuo and the product was purified via Biotage Horizon (FLASH 25 M, silica, gradient from 0% EtOAc/hexane to 40% EtOAc/hexane) to yield 1.08 g (79%) (3-chlorophenyl)(cyclopentyl)acetic acid as a clear oil. HRMS: calcd for C13H15ClO2-H, 237.06823; found (ESI, [M−H]−), 237.0682.

reactant | diisopropylamine | 12.9 mmol, 1.80 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 12.9 mmol, 2.4 M, 5.4 mL | C(CCC)[Li]
reactant | 3-chlorophenylacetic acid | 5.9 mmol, 1.0 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | Cyclopentyl bromide | 7.1 mmol, 0.76 mL | C1(CCCC1)Br | C5H9Br
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (3-chlorophenyl)(cyclopentyl)acetic acid | 1.08 g, 79% | ClC=1C=C(C=CC1)C(C(=O)O)C1CCCC1 | C13H15ClO2
